US08809402B2
5-Iodo-4′-methyl-biphenyl-3-carboxylic acid ((S)-1-pyrazin-2-yl-ethyl)-amide (110 mg, 0.25 mmol) was dissolved in toluene (3 mL) and 1,3-dihydro-benzoimidazol-2-one (135 mg, 1.0 mmol), and CuI (15 mg), K3PO4 (212 mg, 1.0 mmol) and 1,2-bis(methylamino)cyclohexane (0.1 mL) were added. The reaction mixture was stirred at 110° C. overnight, then cooled to room temperature and partitioned between water and ethyl acetate. The organic layer was separated and concentrated under reduced pressure and the residue was purified by preparative thin layer chromatography (7% methanol in dichloromethane) to give 20 mg (185 yield overall) of 4′-methyl-5-(2-oxo-2,3-dihydro-benzoimidazol-1-yl)-biphenyl-3-carboxylic acid ((S)-1-pyrazin-2-yl-ethyl)-amide

reactant | 5-Iodo-4′-methyl-biphenyl-3-carboxylic acid ((S)-1-pyrazin-2-yl-ethyl)-amide | 0.25 mmol, 110 mg | N1=C(C=NC=C1)[C@H](C)NC(=O)C=1C=C(C=C(C1)I)C1=CC=C(C=C1)C | C20H18IN3O
reactant | 1,3-dihydro-benzoimidazol-2-one | 1.0 mmol, 135 mg | N1C(NC2=C1C=CC=C2)=O | C7H6N2O
reactant | K3PO4 | 1.0 mmol, 212 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | 1,2-bis(methylamino)cyclohexane | 0.1 mL | CNC1C(CCCC1)NC | C8H18N2
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
catalyst | CuI | 15 mg | [Cu]I
product | 4′-methyl-5-(2-oxo-2,3-dihydro-benzoimidazol-1-yl)-biphenyl-3-carboxylic acid ((S)-1-pyrazin-2-yl-ethyl)-amide | 20 mg | N1=C(C=NC=C1)[C@H](C)NC(=O)C=1C=C(C=C(C1)N1C(NC2=C1C=CC=C2)=O)C2=CC=C(C=C2)C | C27H23N5O2
